US09359338B2
Step 4: Synthesis of 4,4-difluorochroman-6-amine
Dissolve 4,4-difluoro-6-nitro-chromane (2.5 g, 11.6 mmol) in methanol (100 mL), add zinc powder (2.5 g, 34.8 mmol), then add dropwise a 15.5% aqueous solution of ammonium chloride (40 mL, 139 mmol), stir at room temperature for 5 hrs. Filter off the solid, add water (50 mL) to the filtrate, extract with EtOAc (50 mL×2). Combine the organic layers, wash with brine (50 mL×2), dry over anhydrous Na2SO4. Concentrate under reduced pressure to get a crude residue. Purification by chromatography (silica gel, EtOAc:PE=1:3) affords the title compound (1.8 g, 83.7%). MS: (M+1): 186.2.

reactant | 4,4-difluoro-6-nitro-chromane | 11.6 mmol, 2.5 g | FC1(CCOC2=CC=C(C=C12)[N+](=O)[O-])F | C9H7F2NO3
reactant | ammonium chloride | 139 mmol, 40 mL | [Cl-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | zinc | 34.8 mmol, 2.5 g | [Zn] | Zn
product | 4,4-difluorochroman-6-amine | 1.8 g, 83.7% | FC1(CCOC2=CC=C(C=C12)N)F | C9H9F2NO
